US08492378B2
1-bromo-2-chloro-4-(ethylthio)benzene
To a solution of 1-bromo-2-chloro-4-fluorobenzene (24.8 g, 119 mmol) and ethanethiol (10.6 mL, 143 mmol) in N,N-dimethylformamide (150 mL) was added sodium hydride (60% in oil, 6.00 g, 150 mmol) at room temperature by small portions, and the resulting mixture was stirred for 4 hr. The reaction mixture was diluted with ethyl acetate, washed twice with water and once with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane) to give the title compound (19.4 g, yield 65%) as a colorless oil.

reactant | 1-bromo-2-chloro-4-fluorobenzene | 119 mmol, 24.8 g | BrC1=C(C=C(C=C1)F)Cl | C6H3BrClF
reactant | ethanethiol | 143 mmol, 10.6 mL | C(C)S | C2H6S
reactant | sodium hydride | 150 mmol, 6.00 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-2-chloro-4-(ethylthio)benzene | 19.4 g, yield 65% | BrC1=C(C=C(C=C1)SCC)Cl | C8H8BrClS
